US07425563B2
1,2-Dihydro-4-[4-(dimethylaminomethyl)phenyl]-5-hydroxy-1-oxoisoquinoline
Process 2: To a solution of 4-[4-(dimethylaminomethyl)phenyl]-5-hydroxy-1-methoxyisoquinoline (102 mg, 331 μmol) in acetic acid (15 mL) were added 47% hydrobromic acid (1.5 mL) and water (1.5 mL), and the mixture was refluxed for 1 hour. Water was added to the residue obtained by concentrating the reaction mixture under reduced pressure, which was made basic with saturated aqueous solution of sodium hydrogen carbonate. The precipitated crystals were collected by filtration, washed with water, and then air-dried, thereby affording 66.2 mg of the title compound as brown powder. Yield 68%.

reactant | 4-[4-(dimethylaminomethyl)phenyl]-5-hydroxy-1-methoxyisoquinoline | 331 μmol, 102 mg | CN(C)CC1=CC=C(C=C1)C1=CN=C(C2=CC=CC(=C12)O)OC | C19H20N2O2
reactant | hydrobromic acid | 1.5 mL | Br | BrH
reactant | water | 1.5 mL | O | H2O
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
product | 1,2-Dihydro-4-[4-(dimethylaminomethyl)phenyl]-5-hydroxy-1-oxoisoquinoline | 66.2 mg, Yield 68% | CN(C)CC1=CC=C(C=C1)C1=CNC(C2=CC=CC(=C12)O)=O | C18H18N2O2
